US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-methyl-1,3,4-oxadiazole-2-carboxamide was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (200 mg, 0.652 mmol) and 5-methyl-1,3,4-oxadiazole-2-carboxylic acid (100 mg, 0.782 mmol). The product was purified twice by Flash-chromatography (normal phase and reverse phase). Yield 3.7%. 1H-NMR (400 MHz; MeOD): δ 1.28 (d, 3H), 2.58 (s, 3H), 4.30-4.44 (m, 2H), 4.53-4.64 (m, 1H), 6.76-6.78 (m, 1H), 7.71 (d, 1H), 7.76-7.80 (m, 1H), 7.86-7.90 (m, 1H), 8.02-8.04 (m, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.652 mmol, 200 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 5-methyl-1,3,4-oxadiazole-2-carboxylic acid | 0.782 mmol, 100 mg | CC1=NN=C(O1)C(=O)O | C4H4N2O3
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-methyl-1,3,4-oxadiazole-2-carboxamide | Yield 3.7% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1OC(=NN1)C | C17H15ClN6O2
